US07741321B2
To a solution of 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-cyclopropanecarboxylic acid methyl ester (1 g, 4 mmol) in MeOH (10 mL) was added LiOH (0.40 g, 9.5 mmol). The mixture was stirred at 40° C. overnight. HCl (10%) was added slowly to adjust the pH to 5. The resulting mixture was extracted with ethyl acetate (10 mL×3). The extracts were washed with brine and dried over Na2SO4. The solvent was removed under vacuum and the crude product was purified by preparative HPLC to give 1-(3,3-dimethyl-2,3-dihydrobenzofuran-5-yl)cyclopropanecarboxylic acid (0.37 g, 41%). 1H NMR (400 MHz, CDCl3) δ 7.11-7.07 (m, 2H), 6.71 (d, J=8 Hz, 1H), 4.23 (s, 2H), 1.66-1.63 (m, 2H), 1.32 (s, 6H), 1.26-1.23 (m, 2H).

reactant | 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-cyclopropanecarboxylic acid methyl ester | 4 mmol, 1 g | COC(=O)C1(CC1)C=1C=CC2=C(C(CO2)(C)C)C1 | C15H18O3
reactant | LiOH | 9.5 mmol, 0.40 g | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 1-(3,3-dimethyl-2,3-dihydrobenzofuran-5-yl)cyclopropanecarboxylic acid | 0.37 g, 41% | CC1(COC2=C1C=C(C=C2)C2(CC2)C(=O)O)C | C14H16O3
